US07091228B2
To a solution containing copper chloride (II) (1.96 g, 14.61 mmol) and tri(ethylene glycol) dimethyl ether (6 mL) in acetonitrile (100 mL) was added isoamyl nitrite (2.14 g, 18.27 mmol), and the reaction mixture was stirred at rt for 30 minutes. To this suspension was added dropwise a solution of 2-amino-4-methylbenzothiazole (2.0 g, 12.18 mmol) in tri(ethylene glycol) dimethyl ether (10 mL). The reaction mixture was stirred at rt for 10 minutes, and then heated at 50° C. for 2.5 h. The reaction mixture was cooled to rt, and then poured cautiously into cold aqueous 6 M HCl (400 mL). The solution was extracted with EtOAc. The organic layer was washed with HCl (1.0 M), water, brine, filtered and concentrated in vacuo. The residue was purified by flash chromatography (Biotage Flash 40M) using 5% ethyl acetate in hexane to afford 2-chloro-4-methyl-1,3-benzothiazole (1.6 g, 71%). 1H NMR (400 MHz, CD2Cl2) δ 2.70 (s, 3H), 7.32 (m, 2H), 7.64 (m, 1H).

reactant | isoamyl nitrite | 18.27 mmol, 2.14 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-amino-4-methylbenzothiazole | 12.18 mmol, 2.0 g | NC=1SC2=C(N1)C(=CC=C2)C | C8H8N2S
reactant | HCl | 6 M, 400 mL | Cl | ClH
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | copper chloride | 14.61 mmol, 1.96 g | [Cu](Cl)Cl
product | 2-chloro-4-methyl-1,3-benzothiazole | 1.6 g, 71% | ClC=1SC2=C(N1)C(=CC=C2)C | C8H6ClNS
